US07745477B2
c) Preparation of 4-bromo-1-chloro-2-isopropylbenzene
A mixture of 4-bromo-1-chloro-2-isopropenylbenzene (357 mg, 1.54 mmol, 1 eq) and PtO2 (35 mg, 0.15 mmol, 0.1 eq) in 4 ml toluene was stirred under an atmosphere of hydrogen at RT overnight. The reaction mixture was then filtered through celite® and the filtrate was evaporated to dryness to give the desired product (260 mg, 72%). 1H NMR (CDCl3, 300 MHz): 7.39 (d, J=2 Hz, 1H), 7.26-7.16 (m, 2H), 3.35 (sept, J=7 Hz, 1H), 1.23 (d, J=7 Hz, 6H).

reactant | 4-bromo-1-chloro-2-isopropenylbenzene | 1.54 mmol, 357 mg, 1 eq | BrC1=CC(=C(C=C1)Cl)C(=C)C | C9H8BrCl
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
catalyst | PtO2 | 0.15 mmol, 35 mg, 0.1 eq | O=[Pt]=O
product | 4-bromo-1-chloro-2-isopropylbenzene | 260 mg, 72% | BrC1=CC(=C(C=C1)Cl)C(C)C | C9H10BrCl
